US08106198B2
(3) Synthesis of 4,4′-bis[2-(5-hexyl-2-thienyl)vinyl]-2,2′-bipyridine
4,4′-bis[2-hydroxy-2-(5-hexyl-2-thienyl)ethyl]-2,2′-b ipyridine (1.5 g) was dissolved in 110 g of toluene containing pyridindium p-toluenesulfonate (0.2 g) and reflux was performed for 4 hours using a Dean-Starc device. The solvent was distilled off under reduced pressure, and a residue was dissolved in methylene chloride and washed with a saturated solution of sodium bicarbonate. An organic layer was washed with anhydrous magnesium sulfate and distilled to obtain 1.2 g of a yellow-colored product.

reactant | 4,4′-bis[2-hydroxy-2-(5-hexyl-2-thienyl)ethyl]-2,2′-b ipyridine | 1.5 g | OC(CC1=CC(=NC=C1)C1=NC=CC(=C1)CC(O)C=1SC(=CC1)CCCCCC)C=1SC(=CC1)CCCCCC | C34H44N2O2S2
solvent | toluene | 110 g | C1(=CC=CC=C1)C | C7H8
product | 4,4′-bis[2-(5-hexyl-2-thienyl)vinyl]-2,2′-bipyridine | 1.2 g | C(CCCCC)C1=CC=C(S1)C=CC1=CC(=NC=C1)C1=NC=CC(=C1)C=CC=1SC(=CC1)CCCCCC | C34H40N2S2
